US08648200B2
N-[5-[6-(Difluoromethyl)-3-pyridyl]-4-methyl-1H-imidazol-2-yl]acetamide
Dissolve 2-bromo-1-[6-(difluoromethyl)-3-pyridyl]propan-1-one (0.500 g, 1.89 mmol) and acetyl guanidine (0.514 g, 5.68 mmol) in DMF (12 mL). Heat the mixture to 50° C., and stir for 16 hours. Pour the mixture into water, and extract with EtOAc (3×20 mL). Dry the combined organic extracts over sodium sulfate; filter; collect the filtrate; and concentrate the filtrate under reduced pressure. Purify the resulting residue by flash chromatography (silca gel) eluting with a 40:1 ratio of DCM/MeOH to give the title compound as a white solid (0.229 g, 46% yield). LCMS (m/z) 267 (M+1).

reactant | 2-bromo-1-[6-(difluoromethyl)-3-pyridyl]propan-1-one | 1.89 mmol, 0.500 g | BrC(C(=O)C=1C=NC(=CC1)C(F)F)C | C9H8BrF2NO
reactant | acetyl guanidine | 5.68 mmol, 0.514 g | C(C)(=O)NC(=N)N | C3H7N3O
reactant | water | O | H2O
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | N-[5-[6-(Difluoromethyl)-3-pyridyl]-4-methyl-1H-imidazol-2-yl]acetamide | 0.229 g, 46% yield | FC(C1=CC=C(C=N1)C1=C(N=C(N1)NC(C)=O)C)F | C12H12F2N4O
